US06316485B1
A mixture of sodium methoxide (169 mg) and ethyl 1-(4-fluoro-3-methylphenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxylate (420 mg) in formamide (5 ml) was warmed at 110° C. for 30 minutes. The reaction mixture was poured into ice-water (50 ml) and the precipitate was collected by filtration, and washed with water and dried in vacuo. To an ice-cooled solution of POCl3 (0.23 ml) in dimethylformamide (3 ml) was added the residue by small portions under nitrogen atmosphere. After 2 hours, the mixture was poured into water (50 ml) and stirred for 30 minutes. The resulting precipitates were collected by filtration and washed with water and dried in vacuo. The resulting residue was purified by column chromatography on silica gel using chloroform and was recrystallized from ethanol to afford 1-(4-fluoro-3-methylphenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonitrile (297 mg).

reactant | sodium methoxide | 169 mg | C[O-].[Na+]
reactant | ethyl 1-(4-fluoro-3-methylphenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxylate | 420 mg | FC1=C(C=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(=O)OCC)C | C20H19FN2O4S
reactant | formamide | 5 ml | C(=O)N | CH3NO
product | 1-(4-fluoro-3-methylphenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonitrile | 297 mg | FC1=C(C=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C#N)C | C18H14FN3O2S
